### PR TITLE
Erdős Problem 312

### PR DESCRIPTION
**Pull request by ayush31010**
Summary

This PR introduces a scaffold for Erdős Problem 312 in the FormalConjectures/ErdosProblems directory.
The theorem is stated in terms of Fin n → ℕ families and subsets Finset (Fin n) rather than multisets, which makes multiplicities explicit and avoids ambiguity with ⊆.

Changes

New file: FormalConjectures/ErdosProblems/312.lean

Added helper definitions:

hsumIdx: harmonic sum of a subfamily restricted to indices in a Finset.

hsumAll: total harmonic sum of the full indexed family.

Proved simple supporting lemmas (hsumIdx_empty, hsumAll_eq_univ_sum).

Stated the main theorem erdos_312_fintype:

Existence of a universal constant c > 0.

For all K > 1, sufficiently large families with harmonic sum > K contain a subfamily with harmonic sum in (1 - exp(-c*K), 1].

Added docstrings and inline comments for clarity.

Included a proof sketch as guidance for future formalization (currently marked sorry).

Motivation

The fintype-indexed formulation is simpler to handle in Lean:

It avoids issues with sub-multisets and multiplicity tracking.Summary

This PR introduces a scaffold for Erdős Problem 312 in the FormalConjectures/ErdosProblems directory.
The theorem is stated in terms of Fin n → ℕ families and subsets Finset (Fin n) rather than multisets, which makes multiplicities explicit and avoids ambiguity with ⊆.

Changes

New file: FormalConjectures/ErdosProblems/312.lean

Added helper definitions:

hsumIdx: harmonic sum of a subfamily restricted to indices in a Finset.

hsumAll: total harmonic sum of the full indexed family.

Proved simple supporting lemmas (hsumIdx_empty, hsumAll_eq_univ_sum).

Stated the main theorem erdos_312_fintype:

Existence of a universal constant c > 0.

For all K > 1, sufficiently large families with harmonic sum > K contain a subfamily with harmonic sum in (1 - exp(-c*K), 1].

Added docstrings and inline comments for clarity.

Included a proof sketch as guidance for future formalization (currently marked sorry).

Motivation

The fintype-indexed formulation is simpler to handle in Lean:

It avoids issues with sub-multisets and multiplicity tracking.

It keeps the problem statement closer to the original mathematical intent.

Provides a clear scaffold for collaborators to build on and formalize the probabilistic method proof.

Next Steps

Replace sorry with a formal proof, likely via a probabilistic method (Chebyshev/Hoeffding).

Optionally add a wrapper theorem that converts from the multiset version to the fintype version.

It keeps the problem statement closer to the original mathematical intent.

Provides a clear scaffold for collaborators to build on and formalize the probabilistic method proof.

Next Steps

Replace sorry with a formal proof, likely via a probabilistic method (Chebyshev/Hoeffding).

Optionally add a wrapper theorem that converts from the multiset version to the fintype version.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/312.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
...
+  ↔ answer (sorry) := by
+  /-
+  Proof sketch (to be filled):
+  1. Fix `K > 1`, set ε := exp(-c*K).
+  2. Randomly thin the family with Bernoulli choices (probabilistic method).
+  3. Tune parameters so that the expected harmonic sum is ≈ 1 - ε/2.
+  4. Bound the variance (≲ 1/K) and apply Chebyshev/Hoeffding.
+  5. Conclude that some outcome gives a subset with harmonic sum in (1 - ε, 1].
+  6. Extract the corresponding `Finset` of indices.
+  -/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
```

we don't typically include proof sketches for unsolved problems

File: FormalConjectures/ErdosProblems/312.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean:1]: look at other files for a good copyright header

File: FormalConjectures/ErdosProblems/312.lean [hunk 2]
```diff
@@ -0,0 +1,86 @@
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 312 — Fintype Formulation
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
# Erdős Problem 312
```

File: FormalConjectures/ErdosProblems/312.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean:1]: In general, I don't think the Fintype formulation is really needed, perhaps let's wait until the discussion on Zulip has a conclusion?

**Comment by ayushdebnath012** [comment]
Is there anything else to be done or is it good to merge

File: FormalConjectures/ErdosProblems/312.lean
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean:1]: Added copyright header

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean:1]: Is it fine?

File: FormalConjectures/ErdosProblems/312.lean [hunk 3]
```diff
@@ -0,0 +1,97 @@
...
+
+- `c` is a positive universal constant.
+- For each `K > 1`, there exists `N₀` such that for all `n ≥ N₀` and families `a : Fin n → ℕ`
+  with `hsumAll a > K`, there exists `S : Finset (Fin n)` satisfying
+  `1 - exp (-(c*K)) < hsumIdx a S ≤ 1`.
+
+This is a theorem skeleton; the proof is left as `sorry`.
+-/
+-- Note: if your CI forbids unknown attributes, remove any custom attributes like the one below.
+-- @[category research open, AMS 5 11]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: I think you've left some redundant LLM annotations? :)
```suggestion
-/
@[category research open, AMS 5 11]
```

File: FormalConjectures/ErdosProblems/312.lean [hunk 4]
```diff
@@ -0,0 +1,97 @@
...
+lemma hsumIdx_empty {n} (a : Fin n → ℕ) : hsumIdx a ∅ = 0 := by
+  simp [hsumIdx]
+
+@[simp]
+lemma hsumAll_eq_univ_sum {n} (a : Fin n → ℕ) :
+  hsumAll a = ∑ i in (Finset.univ : Finset (Fin n)), (a i : ℝ)⁻¹ := by
+  classical
+  simp [hsumAll]
+
+/-!
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: The comment below should be in the docstring of the theorem below!

File: FormalConjectures/ErdosProblems/312.lean [hunk 5]
```diff
@@ -0,0 +1,97 @@
...
+
+namespace Erdos312
+noncomputable section
+
+/--
+`hsumIdx a S` is the harmonic sum of the entries of the indexed family `a : Fin n → ℕ`
+restricted to a subset of indices `S : Finset (Fin n)`.
+-/
+def hsumIdx {n : ℕ} (a : Fin n → ℕ) (S : Finset (Fin n)) : ℝ :=
+  ∑ i in S, (a i : ℝ)⁻¹
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: The `in` is a deprecated notation

File: FormalConjectures/ErdosProblems/312.lean [hunk 6]
```diff
@@ -0,0 +1,97 @@
...
+  ∑ i : Fin n, (a i : ℝ)⁻¹
+
+@[simp]
+lemma hsumIdx_empty {n} (a : Fin n → ℕ) : hsumIdx a ∅ = 0 := by
+  simp [hsumIdx]
+
+@[simp]
+lemma hsumAll_eq_univ_sum {n} (a : Fin n → ℕ) :
+  hsumAll a = ∑ i in (Finset.univ : Finset (Fin n)), (a i : ℝ)⁻¹ := by
+  classical
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: Does this compile without `classical`?

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the contribution! A few comments:

File: FormalConjectures/ErdosProblems/312.lean (hunk 6 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: yes, this should compile without classical. It’s not strictly necessary here.

File: FormalConjectures/ErdosProblems/312.lean (hunk 5 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: def hsumIdx {n : ℕ} (a : Fin n → ℕ) (S : Finset (Fin n)) : ℝ :=
  ∑ i ∈ S, (a i : ℝ)⁻¹
  -- use `∑ i ∈ S, ...` (not `∑ i in S, ...`), since `in` is deprecated in Lean 4

File: FormalConjectures/ErdosProblems/312.lean (hunk 4 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: /-- 
`simp` lemma: `hsumAll a` is the same as summing over all indices of `Fin n`.
This is just the definition of `hsumAll` unfolded as a sum over `Finset.univ`.
-/
@[simp]
lemma hsumAll_eq_univ_sum {n} (a : Fin n → ℕ) :
  hsumAll a = ∑ i ∈ (Finset.univ : Finset (Fin n)), (a i : ℝ)⁻¹ := by
  classical
  simp [hsumAll]

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: Try running this

File: FormalConjectures/ErdosProblems/312.lean
Comment (mo271) [reply FormalConjectures/ErdosProblems/312.lean:1]: Seems like the conclusion from zulip discussion is to use the Fintype after all

Comment (mo271) [reply FormalConjectures/ErdosProblems/312.lean:1]: not quite yet. Did you copy from the other file? You can also check in vs code if it is correct, there is a linter for it.

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean:1]: Did the commit using Fintype

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean:1]: Did the commit with the header now rerun

**Comment by ayushdebnath012** [comment]
The last commit has everyhting it should be good to go

**Comment by ayushdebnath012** [comment]
Why is the copyright failing I have pasted the correct code
The owner should be exactly "The Formal Conjectures Authors.". Please add yourself to AUTHORS instead.
This might be the issue

File: FormalConjectures/ErdosProblems/312.lean [hunk 7]
```diff
@@ -0,0 +1,100 @@
+/-
+Copyright 2025 The Formal Conjectures Authors
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
Copyright 2025 The Formal Conjectures Authors.
```

Comment (mo271) [reply FormalConjectures/ErdosProblems/312.lean]: there was just a dot missing

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: Thanks 
Commited the change

**Comment by ayushdebnath012** [comment]
It is good to go now can you plz run it again

**Comment by ayushdebnath012** [comment]
The checks have passed
1 check skipped

Is it good to merge?

Let's close this PR if it is over

File: FormalConjectures/ErdosProblems/312.lean (hunk 6 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/312.lean]: In that case let's remove the classical tactic:)

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: Removed classical

**Comment by ayushdebnath012** [comment]
I have made the changes if we could run it again

File: FormalConjectures/ErdosProblems/312.lean [hunk 8]
```diff
@@ -0,0 +1,97 @@
...
+open scoped BigOperators
+
+namespace Erdos312
+
+noncomputable section
+
+variable {n : ℕ}
+
+/-- A short name for a finite family of (nonnegative) integers indexed by `Fin n`. -/
+abbrev Family (n : ℕ) := Fin n → ℕ
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: Here it's more conventional to just inline `Fin n → ℕ` everywhere rather than using `Family n`.

File: FormalConjectures/ErdosProblems/312.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/312.lean]: I think you forgot to make the change suggested by @mo271? (deleting everything after `312` on this line)

File: FormalConjectures/ErdosProblems/312.lean [hunk 9]
```diff
@@ -0,0 +1,97 @@
...
+# Erdős Problem 312 — Fintype Formulation
+
+*Reference:* https://www.erdosproblems.com/312
+
+We state a version of the problem using functions `Fin n → ℕ` to represent a finite
+indexed family of positive integers and `Finset (Fin n)` for chosen subsets,
+making multiplicities explicit by indexing with `Fin n`.
+-/
+
+open scoped BigOperators
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/312.lean [hunk 10]
```diff
@@ -0,0 +1,97 @@
...
+              1 - Real.exp (-(c * K)) < hsumIdx a S ∧
+              hsumIdx a S ≤ 1 := by
+  /-
+  Proof sketch (to be filled):
+  1. Fix `K > 1`, let ε := Real.exp (-(c*K)).
+  2. Randomly thin indices with Bernoulli(p_i) where p_i := min (1, τ * a i).
+  3. Tune τ so E[∑ X_i / a i] = 1 - ε/2; bound Var ≤ C/K using ∑ 1/(a i) > K.
+  4. Apply Chebyshev/Hoeffding to get positive probability of (1 - ε, 1].
+  5. Take the ω realizing it; its support defines `S`.
+  -/
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/312.lean [hunk 11]
```diff
@@ -0,0 +1,97 @@
...
+@[category research open, AMS 5 11]
+theorem erdos_312_fintype :
+  ∃ (c : ℝ), 0 < c ∧
+    ∀ (K : ℝ), 1 < K →
+      ∃ (N₀ : ℕ),
+        ∀ (n : ℕ) (a : Family n),
+          (n ≥ N₀ ∧ hsumAll a > K) →
+            ∃ (S : Finset (Fin n)),
+              1 - Real.exp (-(c * K)) < hsumIdx a S ∧
+              hsumIdx a S ≤ 1 := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: Note that the problem is stated as a question so the formal version should use the `answer(sorry)` convention (see the style guidelines of the repository)

File: FormalConjectures/ErdosProblems/312.lean (hunk 4 above)
Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/312.lean]: The suggestion here is to make the comment 
"""
Does there exist a constant `c > 0` such that for every `K > 1`, whenever the total
harmonic sum `∑ i, 1 / a i` exceeds `K` and `n` is large enough, we can choose a subset
of indices whose harmonic sum lies in `(1 - exp (-(c*K)), 1]`?
"""
the docstring of the statement of the main theorem (i.e. using `/-- -/` rather than `/-! -/` since that syntax is for module docstrings).

File: FormalConjectures/ErdosProblems/312.lean [hunk 12]
```diff
@@ -0,0 +1,97 @@
...
+
+- `c` is a positive universal constant.
+- For each `K > 1`, there exists `N₀` such that for all `n ≥ N₀` and families `a : Fin n → ℕ`
+  with `hsumAll a > K`, there exists `S : Finset (Fin n)` satisfying
+  `1 - Real.exp (-(c*K)) < hsumIdx a S ∧ hsumIdx a S ≤ 1`.
+
+This is a theorem skeleton; the proof is left as `sorry`.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_312_fintype :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
theorem erdos_312 :
```

File: FormalConjectures/ErdosProblems/312.lean [hunk 13]
```diff
@@ -0,0 +1,97 @@
...
+  Proof sketch (to be filled):
+  1. Fix `K > 1`, let ε := Real.exp (-(c*K)).
+  2. Randomly thin indices with Bernoulli(p_i) where p_i := min (1, τ * a i).
+  3. Tune τ so E[∑ X_i / a i] = 1 - ε/2; bound Var ≤ C/K using ∑ 1/(a i) > K.
+  4. Apply Chebyshev/Hoeffding to get positive probability of (1 - ε, 1].
+  5. Take the ω realizing it; its support defines `S`.
+  -/
+  sorry
+
+end  -- noncomputable section
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
end
```

File: FormalConjectures/ErdosProblems/312.lean [hunk 14]
```diff
@@ -0,0 +1,97 @@
...
+/-- A short name for a finite family of (nonnegative) integers indexed by `Fin n`. -/
+abbrev Family (n : ℕ) := Fin n → ℕ
+
+/-- Harmonic sum of the entries of `a` over the index set `S`. -/
+def hsumIdx (a : Family n) (S : Finset (Fin n)) : ℝ :=
+  ∑ i in S, (1 : ℝ) / (a i : ℝ)
+
+/-- Total harmonic sum of all entries of the indexed family `a`. -/
+def hsumAll (a : Family n) : ℝ :=
+  ∑ i : Fin n, (1 : ℝ) / (a i : ℝ)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: I would also suggest inlining both these definitions into the statement of the main problem - here, I'd argue it will help with readability

**Comment by ayushdebnath012** [comment]
Made all the necessary changes

**Comment by ayushdebnath012** [comment]
Made all the suggested changes try running it once more

**Comment by ayushdebnath012** [comment]
Fixed the code

**Comment by ayushdebnath012** [comment]
Plz check the code once and run it again

File: FormalConjectures/ErdosProblems/312.lean [hunk 15]
```diff
@@ -0,0 +1,47 @@
...
+  ∃ (c : ℝ), 0 < c ∧
+    ∀ (K : ℝ), 1 < K →
+      ∃ (N₀ : ℕ),
+        ∀ (n : ℕ) (a : Fin n → ℕ),
+          (n ≥ N₀ ∧ (∑ i : Fin n, (a i : ℝ)⁻¹) > K) →
+            ∃ (S : Finset (Fin n)),
+              1 - Real.exp (-(c * K)) < (∑ i ∈ S, (a i : ℝ)⁻¹) ∧
+              (∑ i ∈ S, (a i : ℝ)⁻¹) ≤ 1 := by
+  -- TODO: Provide the proof. Using `sorry` to keep the file compiling.
+  -- Many files in the project currently permit `sorry`, as seen in the build log.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/312.lean [hunk 16]
```diff
@@ -0,0 +1,47 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+noncomputable section
+open scoped BigOperators
+open Finset
+
+namespace FormalConjectures
+namespace ErdosProblems
+namespace «312»
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: The namespace here should be `Erdos312`.

File: FormalConjectures/ErdosProblems/312.lean [hunk 17]
```diff
@@ -0,0 +1,47 @@
...
+
+/--
+Does there exist a constant `c > 0` such that for every `K > 1`, whenever the total
+harmonic sum `∑ i, 1 / a i` exceeds `K` and `n` is large enough, we can choose a subset
+of indices whose harmonic sum lies in `(1 - exp (-(c*K)), 1]`?
+-/
+theorem erdos_312 :
+  ∃ (c : ℝ), 0 < c ∧
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: I think you've accidentally removed the `answer(sorry)` :)

File: FormalConjectures/ErdosProblems/312.lean [hunk 18]
```diff
@@ -0,0 +1,47 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+noncomputable section
+open scoped BigOperators
+open Finset
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]: I think removing all of these should work
```suggestion
```

File: FormalConjectures/ErdosProblems/312.lean (hunk 17 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: Sorry

**Comment by ayushdebnath012** [comment]
Made all the changes to the file

File: FormalConjectures/ErdosProblems/312.lean (hunk 18 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: Removed

File: FormalConjectures/ErdosProblems/312.lean (hunk 16 above)
Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/312.lean]: Done

File: .vscode/c_cpp_properties.json
Comment (mo271) [inline .vscode/c_cpp_properties.json:1]: please remove all changes to the .vscode dir (if you suggest to do any, let's do it in a different pull request)

File: FormalConjectures/ErdosProblems/312.lean [hunk 19]
```diff
@@ -0,0 +1,42 @@
...
+import FormalConjectures.Util.Answer.Syntax
+
+namespace FormalConjectures
+namespace ErdosProblems
+namespace Erdos312
+
+/--
+Does there exist a constant `c > 0` such that for every `K > 1`, whenever the total
+harmonic sum `∑ i, 1 / a i` exceeds `K` and `n` is large enough, we can choose a subset
+of indices whose harmonic sum lies in `(1 - exp (-(c*K)), 1]`?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
Does there exist a constant $c > 0$ such that, for any $K > 1$, whenever $A$ is a sufficiently large finite multiset of integers with $\sum_{n\in A}\frac{1}{n}>K$ there exists some $S \subset A$ such that 
$$1-e^{-cK} < \sum_{n\in S}\frac{1}{n}\leq 1?$$
```
Perhaps let's stick to the original formulation, I think using `a` and `S` makes it sufficiently clear how the multiset in the informal statement is modeled here.

File: FormalConjectures/ErdosProblems/312.lean [hunk 20]
```diff
@@ -0,0 +1,42 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjectures.Util.Answer.Syntax
+
+namespace FormalConjectures
+namespace ErdosProblems
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/312.lean [hunk 21]
```diff
@@ -0,0 +1,42 @@
...
+        ∀ (n : ℕ) (a : Fin n → ℕ),
+          (n ≥ N₀ ∧ (∑ i : Fin n, (a i : ℝ)⁻¹) > K) →
+            ∃ (S : Finset (Fin n)),
+              1 - Real.exp (-(c * K)) < (∑ i ∈ S, (a i : ℝ)⁻¹) ∧
+              (∑ i ∈ S, (a i : ℝ)⁻¹) ≤ 1)
+  ↔ answer sorry := by
+
+end Erdos312
+end ErdosProblems
+end FormalConjectures
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion

```

File: FormalConjectures/ErdosProblems/312.lean [hunk 22]
```diff
@@ -0,0 +1,42 @@
...
+theorem erdos_312 :
+  (∃ (c : ℝ), 0 < c ∧
+    ∀ (K : ℝ), 1 < K →
+      ∃ (N₀ : ℕ),
+        ∀ (n : ℕ) (a : Fin n → ℕ),
+          (n ≥ N₀ ∧ (∑ i : Fin n, (a i : ℝ)⁻¹) > K) →
+            ∃ (S : Finset (Fin n)),
+              1 - Real.exp (-(c * K)) < (∑ i ∈ S, (a i : ℝ)⁻¹) ∧
+              (∑ i ∈ S, (a i : ℝ)⁻¹) ≤ 1)
+  ↔ answer sorry := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
  ↔ answer(sorry) := by
```

File: .vscode/c_cpp_properties.json
Comment (ayushdebnath012) [reply .vscode/c_cpp_properties.json:1]: Haven't made any changes to .vscode dir

**Comment by ayushdebnath012** [comment]
Made all the commits lets rerun

File: .vscode/c_cpp_properties.json
Comment (mo271) [reply .vscode/c_cpp_properties.json:1]: please take a look at the "Files changed" tab, I see currently 5 files there, 3 of them from the .vscode dir.

File: FormalConjectures/ErdosProblems/312.lean [hunk 23]
```diff
@@ -0,0 +1,37 @@
...
+  (∃ (c : ℝ), 0 < c ∧
+    ∀ (K : ℝ), 1 < K →
+      ∃ (N₀ : ℕ),
+        ∀ (n : ℕ) (a : Fin n → ℕ),
+          (n ≥ N₀ ∧ (∑ i : Fin n, (a i : ℝ)⁻¹) > K) →
+            ∃ (S : Finset (Fin n)),
+              1 - Real.exp (-(c * K)) < (∑ i ∈ S, (a i : ℝ)⁻¹) ∧
+              (∑ i ∈ S, (a i : ℝ)⁻¹) ≤ 1)
+  ↔ answer(sorry) := by
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean:38]:
```suggestion
  sorry

```

File: FormalConjectures/ErdosProblems/312.lean [hunk 24]
```diff
@@ -0,0 +1,37 @@
...
+theorem erdos_312 :
+  (∃ (c : ℝ), 0 < c ∧
+    ∀ (K : ℝ), 1 < K →
+      ∃ (N₀ : ℕ),
+        ∀ (n : ℕ) (a : Fin n → ℕ),
+          (n ≥ N₀ ∧ (∑ i : Fin n, (a i : ℝ)⁻¹) > K) →
+            ∃ (S : Finset (Fin n)),
+              1 - Real.exp (-(c * K)) < (∑ i ∈ S, (a i : ℝ)⁻¹) ∧
+              (∑ i ∈ S, (a i : ℝ)⁻¹) ≤ 1)
+  ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
theorem erdos_312 :
    (∃ (c : ℝ), 0 < c ∧
      ∀ (K : ℝ), 1 < K →
        ∃ (N₀ : ℕ),
          ∀ (n : ℕ) (a : Fin n → ℕ),
            (n ≥ N₀ ∧ (∑ i : Fin n, (a i : ℝ)⁻¹) > K) →
              ∃ (S : Finset (Fin n)),
                1 - Real.exp (-(c * K)) < (∑ i ∈ S, (a i : ℝ)⁻¹) ∧
                (∑ i ∈ S, (a i : ℝ)⁻¹) ≤ 1)
    ↔ answer(sorry) := by
```

**Comment by Paul-Lez** [comment]
@Solventerritory Before pushing, I would recommend that you first check the file builds locally on your machine - this will speed up the review process.

**Comment by ayushdebnath012** [comment]
I think this should work but I am not being able to check locally due to some reason

File: FormalConjectures/ErdosProblems/312.lean [hunk 25]
```diff
@@ -0,0 +1,38 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjectures.Util.Answer.Syntax
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
```

File: .vscode/c_cpp_properties.json [hunk 26]
```diff
@@ -0,0 +1,18 @@
+{
```
Comment (Paul-Lez) [inline .vscode/c_cpp_properties.json]: The `.vscode` files don't seem to be relevant to this PR so let's remove them:)

Comment (ayushdebnath012) [reply .vscode/c_cpp_properties.json]: Removed the .vscode files

Comment (ayushdebnath012) [reply .vscode/c_cpp_properties.json]: Removed all the .vscode files

File: .vscode/settings.json
Comment (mo271) [inline .vscode/settings.json:1]: please don't remove this file which was present before.

Comment (ayushdebnath012) [reply .vscode/settings.json:1]: Yes this one is the file last updated. Is there any more changes to be done here?

Comment (ayushdebnath012) [reply .vscode/settings.json:1]: Which one do you want to keep is it the settings.json file from .vscode dirr?

Comment (ayushdebnath012) [reply .vscode/settings.json:1]: @Paul-Lez  asked to delete the .vscode dirr?

Comment (mo271) [reply .vscode/settings.json:1]: What I meant by https://github.com/google-deepmind/formal-conjectures/pull/670#discussion_r2366976659 is to not change any file in the .vscode dir, which means both not to add nor modify any files in it. Right now there are still modifications to the settings.json file (namely the file was deleted). 
Do you know how to revert them? Otherwise I can just push a fix for this.

Comment (ayushdebnath012) [reply .vscode/settings.json:1]: Reverted all the .vscode files

Comment (mo271) [reply .vscode/settings.json:1]: There are now still modifications to .vscode/settings.json and you are adding two files in the pr. You can check the "Files changed" tab: it should contain only two files.

Comment (ayushdebnath012) [reply .vscode/settings.json:1]: Removed all the .vscode files. Can you fix this now?

Comment (mo271) [reply .vscode/settings.json:1]: yes, fixed.

File: FormalConjectures/ErdosProblems/312.lean [hunk 27]
```diff
@@ -0,0 +1,39 @@
...
+
+namespace Erdos312
+
+/--
+Does there exist a constant `c > 0` such that, for any `K > 1`, whenever `A` is a sufficiently large
+finite multiset of integers with `∑ n ∈ A, 1/n > K` there exists some `S ⊆ A` such that
+`1 - exp (-(c*K)) < ∑ n ∈ S, 1/n ≤ 1`?
+-/
+
+theorem erdos_312 :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/312.lean]:
```suggestion
@[category research open, AMS 5 11]
theorem erdos_312 :
```

**Comment by ayushdebnath012** [comment]
Is everything set?

**Comment by ayushdebnath012** [comment]
Is it approved @Paul-Lez @mo271? Can we merge this pr?
